US09302991B2
<Step-3>:(R)-2-methyl-N-(1-(6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 76% yield (6.0 g, pale brown oil) from 1-(6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethanone (5.6 g, 22.2 mmol) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethanone | 22.2 mmol, 5.6 g | FC(COC1=CC=C(C=N1)C(C)=O)(C(F)F)F | C10H9F4NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide | 76% yield | CC(C)(C)[S@@](=O)NC(C)C=1C=NC(=CC1)OCC(C(F)F)(F)F | C14H20F4N2O2S
